* SPICE3 file created from BGR.ext - technology: sky130A

X0 M2G M8D VDD VDD sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=1e+06u l=1e+06u M=15
X1 VDD VDD VDD VDD sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=1e+06u l=1e+06u M=14
X2 M17D M8D VDD VDD sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=1e+06u l=1e+06u
X3 VBGP M8D VDD VDD sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=1e+06u l=1e+06u
X4 M5D M8D VDD VDD sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=1e+06u l=1e+06u
X5 M8D M8D VDD VDD sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=1e+06u l=1e+06u
X6 M14D M8D VDD VDD sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=1e+06u l=1e+06u
X7 M7D M8D VDD VDD sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=1e+06u l=1e+06u
X8 M8D M2G M2D GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=8e+06u l=1e+06u M=8
X9 M1D M1D GND GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=8e+06u l=1e+06u M=8
X10 M2D M2G M1D GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=8e+06u l=1e+06u M=8
X11 M14D M14D M15D GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=1e+06u l=1e+06u M=4
X12 M15D M14D M6D GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=1e+06u l=1e+06u
X13 M7D M7D M6D GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=1e+06u l=1e+06u M=4
X14 M6D M7D M6S GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=1e+06u l=1e+06u
X15 M5D M5D M6S GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=1e+06u l=1e+06u M=4
X16 M6S M5D M2D GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=1e+06u l=1e+06u
X17 M17D M17D VBGP GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=1e+06u l=1e+06u M=4
X18 VBGP M17D M15D GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=1e+06u l=1e+06u
X19 GND GND M2G GND sky130_fd_pr__pnp_05v5_W3p40L3p40
C0 M6S M7D 2.62f
C1 VDD M8D 4.26f
C2 M8D M2D 11.50f
C3 M1D M2D 6.70f
C4 M15D VBGP 2.21f
C5 VDD M2G 4.77f
C6 M8D M2G 3.97f
C7 M1D M2G 3.90f
C8 M2D M5D 2.13f
C9 M17D GND 6.56f
C10 VBGP GND 4.81f
C11 M6S GND 5.04f
C12 M5D GND 7.38f
C13 M6D GND 4.08f
C14 M7D GND 6.67f
C15 M15D GND 4.60f
C16 M14D GND 6.27f
C17 M1D GND 34.92f
C18 M2D GND 18.92f
C19 M2G GND 23.29f
C20 M8D GND 20.33f
C21 VDD GND 110.70f


* Simulation
* Include external file that contains MOSFET Model
.lib ".\skywater-pdk\libraries\sky130_fd_pr\latest\models\sky130.lib.spice" tt
.include ".\skywater-pdk\libraries\sky130_fd_pr\latest\models\sky130_fd_pr__model__pnp.model.spice"
CLoad VBGP GND 1p
V1 VDD GND 1.8V

* Control
.control
dc V1 0 3.3 0.1
plot V(VBGP)
.endc

